2154-01-30 09:04:00 Physician Attending Progress Note
Chief Complaint: Diarrhea
   Acute Renal Failure
   Thrombocytopenia
   Respiratory Distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2154-1-29**] 12:41 PM
 MULTI LUMEN - STOP [**2154-1-29**] 02:34 PM
   _CVL discontinued
   -Worsening renal failure
   -Persistent diarrhea to 6 liters out yesterday
   -Thrombocytopenia onset
   -No schistocytes
   -Muddy Brown Casts on urine consistent with ATN
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2154-1-29**] 03:30 PM
   Furosemide (Lasix) - [**2154-1-29**] 09:36 PM
   Pantoprazole (Protonix) - [**2154-1-30**] 07:39 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Tachypnea
   Gastrointestinal: Diarrhea
   Flowsheet Data as of  [**2154-1-30**] 08:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**55**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.2
C (97.2
   HR: 99 (88 - 106) bpm
   BP: 126/82(91) {107/51(68) - 147/82(91)} mmHg
   RR: 22 (16 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 115.2 kg (admission): 103.9 kg
   Height: 72 Inch
             Total In:
                                                                  7,317 mL
                                                                  1,010 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                  7,197 mL
                                                                  1,010 mL
   Blood products:
   Total out:
                                                                  6,910 mL
                                                                  1,585 mL
   Urine:
                                                                    785 mL
                                                                    585 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                    407 mL
                                                                   -575 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///14/
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Wheezes : , Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.9 g/dL
   100 K/uL
   131 mg/dL
   7.5 mg/dL
   14 mEq/L
   3.4 mEq/L
   67 mg/dL
   107 mEq/L
   137 mEq/L
   36.8 %
   7.5 K/uL
        [image002.jpg]
                             [**2154-1-28**]  02:05 PM
                             [**2154-1-28**]  05:08 PM
                             [**2154-1-28**]  05:40 PM
                             [**2154-1-28**]  09:52 PM
                             [**2154-1-28**]  11:05 PM
                             [**2154-1-29**]  02:53 AM
                             [**2154-1-29**]  07:44 AM
                             [**2154-1-29**]  02:59 PM
                             [**2154-1-29**]  07:28 PM
                             [**2154-1-30**]  04:11 AM
   WBC
   14.1
   9.7
   9.4
   7.5
   Hct
   47.6
   46.3
   43.5
   41.9
   38.8
   39.4
   36.8
   Plt
   113
   104
   119
   100
   Cr
   4.7
   4.7
   6.0
   6.6
   7.5
   TropT
   0.13
   0.15
   TCO2
   11
   12
   13
   Glucose
   119
   151
   115
   117
   131
   Other labs: PT / PTT / INR:14.3/36.7/1.2, CK / CKMB /
   Troponin-T:543/98/0.15, ALT / AST:87/188, Alk Phos / T Bili:74/0.8,
   Differential-Neuts:88.0 %, Band:0.0 %, Lymph:8.0 %, Mono:4.0 %, Eos:0.0
   %, Fibrinogen:301 mg/dL, Lactic Acid:1.3 mmol/L, LDH:307 IU/L, Ca++:7.1
   mg/dL, Mg++:1.9 mg/dL, PO4:4.5 mg/dL
   Imaging: CXR--Mild improvement in interstitial edema but very poor
   technique for film
   Assessment and Plan
   54 yo male with h/o EtOH abuse admitted with diarrhea and with
   continued large volume small bowel source likely following shellfish
   and now with persistent and worsening renal failurea and substantial
   non-gap acidosis likely related to ATN.
   1)       DIARRHEA-Differential remains broad and we have no significant
   culture results seen.
   -Follow culture results
   -Maintain hydration
   -C. Diff is negative
   2)       RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)-Do not see
   urgency for further diuresis, CXR remains unimpressive for edema and
   oxygen requirement is limited
   -has had 500cc out with Lasix given
   -Will hold further lasix at this time to favor renal preservation and
   given that respiratory status is adequate
   -Will have to monitor respiratory status
   -Will have renal consult in place for aid in evaluation and treatment
   3)Metabolic Acidosis-Has significant non-gap acitosis persisting with
   anion-gap related to renal failure perhaps most likely at this time.
   -Will evaluate urine anion gap
which is on previous testing was
   positive value consistent with significant contribution from both GI
   and Renal sources for persistent non-gap acidosis
   -HCO3- to target serum bicarb of 18
   GI Bleed-
   -Follow HCT
   -No active further losses
   -Will have to follow for varices or other sources of acute loss
 SHOCK, HYPOVOLEMIC OR HEMORRHAGIC
   Additional issues to be addressed as defined in the housestaff note of
   this date
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2154-1-28**] 01:43 PM
   PICC Line - [**2154-1-29**] 12:41 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35